Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:4][C:7][C:8]([H:9])[H:10].[H:1][C:6]([H:3])([C:5])[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-7.0407404163
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.87271047216
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.32189582488
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],10.57609988
[C:1][C:2]1([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.2398525638
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:3]([O:4][H:5])=[C:6]([H:7])[H:8].[H:1][O:2],5.96556295462
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:8](\[H:9])[O:10][H:11].[O:6][H:7],2.45646431874
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:10]([H:11])([H:12])[H:13],5.12838713347
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10][O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-2.9833387869
[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.7997270769999998
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.42129466502
[C:1]#[C:2][C:3]([H:4])([H:5])[C:10]([H:11])[H:12].[C:6]([H:7])([H:8])([C:9])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-3.59285172261
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]=[C:11]([H:12])[H:13],3.17206958074
[H:4].[O:1]=[C:2]=[C:3]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.92621322464
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-6.261787106240001
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.98492115431
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15],5.15534800642
[H:1][C:2]#[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.68016726111
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13],-2.98170586383
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],1.64902854032
[C:6]([H:7])#[C:8][O:9][H:10].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],0.261999134749
[O:1]=[C:2]=[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[O:1][C:2][C:3],4.18604013904
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])=[C:7]([H:8])[H:9].[H:6],1.6768894607499998
[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10].[H:11],4.67862962285
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.55828219201
[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.30318257211
[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])=[C:7]1[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8],0.92998050356
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1=[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:12]([C:10][H:11])([H:13])[H:14],5.72780405
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.12633230681
